US04689338
Following the general method of Example 195, Step B, 3-amino-4-(isobutylamino)quinoline was reacted with veratraldehyde to provide 2-(3,4-dimethoxyphenyl)-1-isobutyl-1H-imidazo[4,5-c]quinoline, melting point 192°-199° C. Analysis: Calculated for C20H23N3O2 : % C, 73.1; % H, 6.4; % N, 11.6. Found: % C, 72.7; % H, 6.3; % N, 11.4.

reactant | 3-amino-4-(isobutylamino)quinoline | NC=1C=NC2=CC=CC=C2C1NCC(C)C | C13H17N3
reactant | veratraldehyde | C(C1=CC(OC)=C(OC)C=C1)=O | C9H10O3
product | 2-(3,4-dimethoxyphenyl)-1-isobutyl-1H-imidazo[4,5-c]quinoline | COC=1C=C(C=CC1OC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)C | C22H23N3O2
